US07795282B2
Step E: 2-(5-(2,5-difluorophenyl)-2-((methoxymethoxy)methyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-methyl-1,3,4-oxadiazole:
To a mixture of N′-acetyl-5-(2,5-difluorophenyl)-2-((methoxymethoxy)methyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbohydrazide (0.221 g, 0.491 mmol) and DIEA (0.634 g, 4.91 mmol) in dichloroethane (10 mL) was added POCl3 (0.376 g, 2.45 mmol). After stirring for 30 minutes, the mixture was partitioned between dichloromethane (10 mL) and saturated NaHCO3 (5 mL). The organic layer was extracted with dichloromethane (10 mL). The combined organic layers were washed with brine (10 mL), dried over Na2SO4, and chromatographed (20:1 to 10:1 hexanes/ethyl acetate) to provide the final product (0.080 g, 38%). MS ESI (+) m/z 433 (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 7.68 (m, 1H), 7.54 (d, 2H, J=7 Hz), 7.35 (m, 3H), 7.10 (m, 2H), 4.90 (d, 1H, J=11 Hz), 4.74 (m, 2H), 4.52 (d, 1H, J=11 Hz), 3.37 (s, 3H), 2.44 (s, 3H).

reactant | N′-acetyl-5-(2,5-difluorophenyl)-2-((methoxymethoxy)methyl)-2-phenyl-1,3,4-thiadiazole-3(2H)-carbohydrazide | 0.491 mmol, 0.221 g | C(C)(=O)NNC(=O)N1C(SC(=N1)C1=C(C=CC(=C1)F)F)(C1=CC=CC=C1)COCOC | C20H20F2N4O4S
reactant | DIEA | 4.91 mmol, 0.634 g | CCN(C(C)C)C(C)C | C8H19N
reactant | POCl3 | 2.45 mmol, 0.376 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 2-(5-(2,5-difluorophenyl)-2-((methoxymethoxy)methyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-methyl-1,3,4-oxadiazole | 0.080 g, 38% | FC1=C(C=C(C=C1)F)C1=NN(C(S1)(C1=CC=CC=C1)COCOC)C=1OC(=NN1)C | C20H18F2N4O3S
